US05948775
7-Hydroxy-2-(4-hydroxy-phenyl)-3-{4-[2-(piperidin-1-yl)-ethoxy]-phenyl}-3H-quinazolin-4-one
A solution containing 0.25 g (0.000612 mol) of 3-[4-(2-chloro-ethoxy)-phenyl]-7-hydroxy-2-(4-hydroxy-phenyl)-3H-quinazolin-4-one in 7 mL of piperidine was stirred and heated to reflux for 2 hours. After cooling to room temperature, ethyl acetate was added to the reaction mixture and the solvents were co-evaporated to near dryness in a rotary evaporator. The dark residue was extracted with ethyl acetate and water. The aqueous layer was removed and chilled on ice. The precipitate which then formed was collected by vacuum filtration (0.052 g, mp 185-190° C.) and was shown to be the hydrochloride salt monohydrate.

reactant | 3-[4-(2-chloro-ethoxy)-phenyl]-7-hydroxy-2-(4-hydroxy-phenyl)-3H-quinazolin-4-one | 0.000612 mol, 0.25 g | ClCCOC1=CC=C(C=C1)N1C(=NC2=CC(=CC=C2C1=O)O)C1=CC=C(C=C1)O | C22H17ClN2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | piperidine | 7 mL | N1CCCCC1 | C5H11N
product | 7-Hydroxy-2-(4-hydroxy-phenyl)-3-{4-[2-(piperidin-1-yl)-ethoxy]-phenyl}-3H-quinazolin-4-one | OC1=CC=C2C(N(C(=NC2=C1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)OCCN1CCCCC1)=O | C27H27N3O4
